US06197729B1
a) 1-(2,2-difluoro-1-methylvinyl)-4-methoxybenzene
At between 0° C. and −10° C., 181 g of tris(dimethylamino)phosphine in 75 ml of triglyme were added dropwise to 84 g of dibromodifluoromethane in 50 ml of triglyme. At 0° C., 30 g of 4-methoxyacetophenone dissolved in 125 ml of triglyme were subsequently added dropwise and the mixture was stirred for ½ h at room temperature and for 24 h at 80° C. The mixture was cooled to room temperature, mixed with 200 ml of water and extracted with petroleum ether. The combined organic phases were dried and concentrated. For purification, the crude product was chromatographed over silica gel (petroleum ether/ethyl acetate 5:1), to give the title product as a colourless oil.

reactant | tris(dimethylamino)phosphine | 181 g | CN(C)P(N(C)C)N(C)C | C6H18N3P
reactant | dibromodifluoromethane | 84 g | BrC(F)(F)Br | CBr2F2
reactant | 4-methoxyacetophenone | 30 g | CC(=O)C1=CC=C(C=C1)OC | C9H10O2
reactant | water | 200 ml | O | H2O
solvent | triglyme | 75 ml | COCCOCCOCCOC | C8H18O4
solvent | triglyme | 50 ml | COCCOCCOCCOC | C8H18O4
solvent | triglyme | 125 ml | COCCOCCOCCOC | C8H18O4
product | 1-(2,2-difluoro-1-methylvinyl)-4-methoxybenzene | FC(=C(C)C1=CC=C(C=C1)OC)F | C10H10F2O
